US04006243
[4-(1-Imidazolylmethyl)-phenyl]-(2-nitrobenzyl)-ether, Hydrochloride
Analogously to Example 1, a crude ether is obtained from 1.74 g. of 4-(1-imidazolylmethyl)-phenol, 300 mg. of sodium hydride suspension, and 1.72 g. of 2-nitrobenzyl chloride. This crude ether is dissolved in methanol and combined with an excess of methanol which contains hydrogen chloride until the mixture shows an acidic reaction. After the solvent has been removed by evaporation under vacuum, the residue is dissolved in methylene chloride and mixed with ether until the onset of crystallization, thus obtaining 925 mg. of [4-(1-imidazolylmethyl)-phenyl]-(2-nitrobenzyl)-ether, hydrochloride, which melts at 156°-158° after another recrystallization from isopropanol.

reactant | 4-(1-imidazolylmethyl)-phenol | N1C(=NC=C1)CC1=CC=C(C=C1)O | C10H10N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-nitrobenzyl chloride | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | [4-(1-Imidazolylmethyl)-phenyl]-(2-nitrobenzyl)-ether, Hydrochloride | Cl.N1C(=NC=C1)CC1=CC=C(C=C1)OCC1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C17H15N3O3.ClH/c21-20(22)16-4-2-1-3-14(16)12-23-15-7-5-13(6-8-15)11-17-18-9-10-19-17;/h1-10H,11-12H2,(H,18,19);1H
